US06576639B1
3-Bromo-8-chloro-5,6-dihydro-11H-benzo [5,6]cyclohepta[1,2-b]pyridin-11-one N1-oxide
To a solution of 3-bromo-8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one (2 g) (6.2 mmoles) in anhydrous dichloromethane (14 ml) at 0° C. and under an argon atmosphere, was added a solution of 3-chloroperbenzoic acid (1.76 g) (10.4 mmoles) in anhydrous dichloromethane (35 ml) dropwise over a period of 30 minutes. The mixture was allowed to warm to room temperature and after 18 h additional 3-chloroperbenzoic acid (0.88 g) (5.2 mmoles) in anhydrous dichloromethane (25 ml) was added and the mixture was stirred for a total of 42 h. The mixture was diluted with dichloromethane and washed with 1N NaOH (200 ml). The aqueous layer was extracted with additional dichloromethane (2X200 ml) and the combined organic layers were dried over magnesium sulfate, filtered and evaporated to dryness. The product was chromatographed on silica gel using 0.25%-0.5%-1% (10% conc. NH4OH in methanol)dichloromethane as the eluant to give the title compound (Yield:1.386 g, 66%): ESIMS; m/z 338.1 (MH+); δc (CDCl3) CH2: 30.5, 34.0; CH: 126.9, 127.6, 130.3, 132.5, 140.4; C: 121.0, 135.1, 138.3, 139.7, 141.6, 145.3, 188.0 ppm.

reactant | 3-bromo-8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 6.2 mmoles, 2 g | BrC=1C=C2C(=NC1)C(C1=C(CC2)C=C(C=C1)Cl)=O | C14H9BrClNO
reactant | 3-chloroperbenzoic acid | 10.4 mmoles, 1.76 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloroperbenzoic acid | 5.2 mmoles, 0.88 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-Bromo-8-chloro-5,6-dihydro-11H-benzo [5,6]cyclohepta[1,2-b]pyridin-11-one N1-oxide | Yield:1.386 g, 66% | BrC=1C=C2C(=[N+](C1)[O-])C(C1=C(CC2)C=C(C=C1)Cl)=O | C14H9BrClNO2
